US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4,7-dimethyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione hydrochloride
Following the procedure of Example 31, 2-(2-chloroethyl)-2,3-dihydro-4,7-dimethyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione is reacted with dimethylamine to give the title compound.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4,7-dimethyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione | ClCCC1OC2=C(C=C(C=3C=CC=NC23)C)C(N(C1)C)=S | C16H17ClN2OS
reactant | dimethylamine | CNC | C2H7N
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4,7-dimethyl-1,4-oxazepino[6,7-h]quinoline-5(4H)-thione hydrochloride | Cl.CN(CCC1OC2=C(C=C(C=3C=CC=NC23)C)C(N(C1)C)=S)C | InChI=1S/C18H23N3OS.ClH/c1-12-10-15-17(16-14(12)6-5-8-19-16)22-13(7-9-20(2)3)11-21(4)18(15)23;/h5-6,8,10,13H,7,9,11H2,1-4H3;1H
